US07632857B2
(S)-(4′-Amino-biphenyl-4-yl)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
Procedure OO: 160 mg of (4′-Nitro-biphenyl-4-yl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone (0.43 mmol) is put into the solution of 485 mg of SnCl2.2H2O (2.15 mmol) in 1.0 ml of EtOH. 1.0 ml of conc. HCl is added to the mixture and heated at 60° C. for 30 min. EtOH is removed in vacuo and the solution is made it to pH=12.0 by aqueous NaOH. This mixture is extracted with dichloromethane, dried over Na2SO4 and evaporated. The crude product is applied to SCX column and washed by MeOH and the desired product is eluted with 2M NH3 in MeOH. The elution is concentrated and applied to silica-gel column chromatography (CH2Cl2:2M NH3 in MeOH=20:1) to give the title compound. 77 mg (51%) Observed mass; 350 (M+1)

reactant | (4′-Nitro-biphenyl-4-yl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | 0.43 mmol, 160 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C22H25N3O3
reactant | SnCl2.2H2O | 2.15 mmol, 485 mg | O.O.Cl[Sn]Cl
reactant | HCl | 1.0 ml | Cl | ClH
solvent | EtOH | 1.0 ml | CCO | C2H6O
product | (S)-(4′-Amino-biphenyl-4-yl)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C22H27N3O
